US06362165B1
Preparation of N-[N′-(p-hydroxybenzoyl)-L-prolyl]-dopamine
The title compound was prepared from N-(tert-butoxycarbonyl)-L-proline (108 mg, 0.50 mmol) in a coupling reaction with dopamine hydrochloride (189 mg, 1.0 mmol) according to example 6. Purification by flash column chromatography (5% MeOH/CHCl3) provided the desired compound as a syrup (128 mg, 73%).

reactant | N-(tert-butoxycarbonyl)-L-proline | 0.50 mmol, 108 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | dopamine hydrochloride | 1.0 mmol, 189 mg | Cl.NCCC1=CC(O)=C(O)C=C1
product | N-[N′-(p-hydroxybenzoyl)-L-prolyl]-dopamine | 128 mg, 73% | OC1=CC=C(C(=O)N2[C@H](C(=O)NCCC3=CC(O)=C(O)C=C3)CCC2)C=C1 | C20H22N2O5
